US08048878B2
Synthesis of methyl (E)-4-{(4S*,9aR*)-7-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]-6-oxooctahydroquinolizin-4-yl}benzoate
Lithium hydroxide monohydrate (55 mg) was added to a mixed solution of diethyl [(6S*,9aR*)-6-(4-carbomethoxyphenyl)-4-oxooctahydroquinolizin-3-yl]phosphonate (185 mg) and 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde (94 mg) in tetrahydrofuran (4 mL) and ethanol (1 mL), and the reaction solution was stirred at room temperature for two hours. Ethyl acetate and brine were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: heptane:ethyl acetate=1:1->ethyl acetate) to obtain 191 mg of the title compound. The property values of the compound are as follows.

reactant | Lithium hydroxide monohydrate | 55 mg | O.[OH-].[Li+]
reactant | diethyl [(6S*,9aR*)-6-(4-carbomethoxyphenyl)-4-oxooctahydroquinolizin-3-yl]phosphonate | 185 mg | C(=O)(OC)C1=CC=C(C=C1)[C@H]1N2C(C(CC[C@H]2CCC1)P(OCC)(OCC)=O)=O | C21H30NO6P
reactant | 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde | 94 mg | COC=1C=C(C=O)C=CC1N1C=NC(=C1)C | C12H12N2O2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | brine | [Cl-].[Na+].O
product | methyl (E)-4-{(4S*,9aR*)-7-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]-6-oxooctahydroquinolizin-4-yl}benzoate | 191 mg | COC=1C=C(\C=C/2\C(N3[C@@H](CCC[C@@H]3CC2)C2=CC=C(C(=O)OC)C=C2)=O)C=CC1N1C=NC(=C1)C | C29H31N3O4
